US07897600B2
(8-(Aminomethyl)-6-chloro-2-methylimidazo[1,2-b]pyridazin-3-yl)(4-chloro-2-fluorophenyl)methanone
Combine 2-((6-chloro-3-(4-chloro-2-fluorobenzoyl)-2-methylimidazo[1,2-b]pyridazin-8-yl)methyl)isoindoline-1,3-dione (7.30 g, 15.1 mmol), ethanol (200 mL), and hydrazine (1.45 mL, 3 equiv.) in a round bottom flask and place under nitrogen. Stir for 2 days at RT. Heat for 2 h at 50° C. then concentrate the reaction in vacuo. Dilute with EA. Wash the organics with 1 N HCl (aq) to pull product into the aqueous layer. Make the aqueous layer basic with 1 N NaOH (aq) and extract with EA. Wash the EA layer with aqueous saturated sodium chloride, and dry over anhydrous magnesium sulfate. Filter and concentrate in vacuo to give the title compound crude (1.2 g, 23%) as a light green solid. MS=355.0, 353.0 (M+1).

reactant | 2-((6-chloro-3-(4-chloro-2-fluorobenzoyl)-2-methylimidazo[1,2-b]pyridazin-8-yl)methyl)isoindoline-1,3-dione | 15.1 mmol, 7.30 g | ClC=1C=C(C=2N(N1)C(=C(N2)C)C(C2=C(C=C(C=C2)Cl)F)=O)CN2C(C1=CC=CC=C1C2=O)=O | C23H13Cl2FN4O3
reactant | ethanol | 200 mL | C(C)O | C2H6O
reactant | hydrazine | 1.45 mL, 3 equiv. | NN | H4N2
solvent | EA | CC(OCC)=O | C4H8O2
product | (8-(Aminomethyl)-6-chloro-2-methylimidazo[1,2-b]pyridazin-3-yl)(4-chloro-2-fluorophenyl)methanone | NCC=1C=2N(N=C(C1)Cl)C(=C(N2)C)C(=O)C2=C(C=C(C=C2)Cl)F | C15H11Cl2FN4O
